US07501538B2
(S)-2-(2-Amino-5-chloro-benzoylamino)-3-[4-(4-tert-butyl-benzyloxy)-phenyl]-propionic acid methyl ester (175 mg) was prepared from (S)-2-amino-3-[4-(4-tert-butyl-benzyloxy)-phenyl]-propionic acid methyl ester-hydrochloride (214 mg, 0.57 mmol) and 2-amino-5-chloro-benzoic acid (101 mg) as described in Procedure A, except for an adapted work-up. After reaction completion, the reaction mixture was poured onto 5 mL of 1N HCl and 5 mL of EtOAc. The organic layer was washed with 1N HCl, saturated sodium bicarbonate, dried over sodium sulfate and evaporated. The crude material was purified over silica gel (DCM).

reactant | (S)-2-amino-3-[4-(4-tert-butyl-benzyloxy)-phenyl]-propionic acid methyl ester-hydrochloride | 0.57 mmol, 214 mg | Cl.COC([C@H](CC1=CC=C(C=C1)OCC1=CC=C(C=C1)C(C)(C)C)N)=O
reactant | 2-amino-5-chloro-benzoic acid | 101 mg | NC1=C(C(=O)O)C=C(C=C1)Cl | C7H6ClNO2
reactant | HCl | 1N, 5 mL | Cl | ClH
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | (S)-2-(2-Amino-5-chloro-benzoylamino)-3-[4-(4-tert-butyl-benzyloxy)-phenyl]-propionic acid methyl ester | 175 mg | COC([C@H](CC1=CC=C(C=C1)OCC1=CC=C(C=C1)C(C)(C)C)NC(C1=C(C=CC(=C1)Cl)N)=O)=O | C28H31ClN2O4
